US06407122B1
A solution of 2.5 g (+) threo 1-phenoxymethyl-1-(4-benzylpiperidin-1-yl)-2-p-nitrophenyl-2-hydroxy-ethane and 0.5 g of Pd/C 10% in 25 ml of ethanol was hydrogenated at normal pressure at 30° C. After removal of the catalist, the solution was concentrated to small volume affording 1.7 g of (+) threo 1-phenoxymethyl-1-(4-benzylpiperidin-1-yl)-2-p-aminophenyl-2-hydroxy-ethane, m.p. 146-147° C.

reactant | 1-phenoxymethyl-1-(4-benzylpiperidin-1-yl)-2-p-nitrophenyl-2-hydroxy-ethane | O(C1=CC=CC=C1)CC(C(O)C1=CC=C(C=C1)[N+](=O)[O-])N1CCC(CC1)CC1=CC=CC=C1 | C27H30N2O4
solvent | ethanol | 25 ml | C(C)O | C2H6O
catalyst | Pd/C | 0.5 g | [Pd] | Pd
product | 1-phenoxymethyl-1-(4-benzylpiperidin-1-yl)-2-p-aminophenyl-2-hydroxy-ethane | O(C1=CC=CC=C1)CC(C(O)C1=CC=C(C=C1)N)N1CCC(CC1)CC1=CC=CC=C1 | C27H32N2O2
